US05084084
Synthesis of 3-(7-fluoro-3-oxo-4-(2-pyridylmethyl)-2H-1,4-benzoxazin-6-yl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione (compound A-3)
0.20 g of 3-(7-fluoro-3-oxo-2H-1,4-benzoxazin-6-yl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)pyrimidinedione was added at room temperature to an N,N -dimethylformamide solution (5 ml) having suspended therein 0.05 g of sodium hydride (purity: 55%). After standing for 20 minutes, the solution was added with 0.09 g of 2-chloromethylpyridine hydrochloride and stirred for 4 hours. Then N,N-dimethylformamide was distilled off and the residue was extracted with ethyl acetate by adding water. The extract was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, and then ethyl acetate was distilled off to obtain a crude product. This product was purified by preparative thin-layer chromatography using hexane/ethyl acetate (2:3) as developing solvent to obtain 0.09 g of the objective compound as pale yellow crystals.

reactant | 3-(7-fluoro-3-oxo-2H-1,4-benzoxazin-6-yl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)pyrimidinedione | 0.20 g | FC1=CC2=C(NC(CO2)=O)C=C1N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C14H9F4N3O4
reactant | sodium hydride | 0.05 g | [H-].[Na+]
reactant | 2-chloromethylpyridine hydrochloride | 0.09 g | Cl.ClCC1=NC=CC=C1
solvent | N,N -dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-(7-fluoro-3-oxo-4-(2-pyridylmethyl)-2H-1,4-benzoxazin-6-yl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 0.09 g | FC1=CC2=C(N(C(CO2)=O)CC2=NC=CC=C2)C=C1N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C20H14F4N4O4
